US07504410B2
Synthesis of N-[3-[[5-bromo-4-[[3-[[(phenylamino)carbonyl]amino]propyl]amino]-2-pyrimidinyl]amino]phenyl]-1-pyrrolidinecarboxamide
To a suspension of N-(3-((4-((3-aminopropyl)amino)-5-bromo-2-pyrimidinyl)amino)phenyl)-1-pyrrolidinecarboxamide (100 mg, 0.2 mmol) and DIEA (0.14 mL, 0.8 mmol) in 1,4-dioxane (5 mL) was added phenyl isocyanate (35 mg, 0.3 mmol). The resulting solution was stirred overnight and concentrated. The crude residue was directly purified by prep HPLC using acetonitrile/water to give the title compound (68 mg).

reactant | N-(3-((4-((3-aminopropyl)amino)-5-bromo-2-pyrimidinyl)amino)phenyl)-1-pyrrolidinecarboxamide | 0.2 mmol, 100 mg | NCCCNC1=NC(=NC=C1Br)NC=1C=C(C=CC1)NC(=O)N1CCCC1 | C18H24BrN7O
reactant | DIEA | 0.8 mmol, 0.14 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | phenyl isocyanate | 0.3 mmol, 35 mg | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | N-[3-[[5-bromo-4-[[3-[[(phenylamino)carbonyl]amino]propyl]amino]-2-pyrimidinyl]amino]phenyl]-1-pyrrolidinecarboxamide | 68 mg | BrC=1C(=NC(=NC1)NC=1C=C(C=CC1)NC(=O)N1CCCC1)NCCCNC(=O)NC1=CC=CC=C1 | C25H29BrN8O2
